US09238639B2
G) Methyl(7-fluoro-6-hydroxy-4-methyl-1-benzothiophen-3-yl)acetate
To a mixture of (7-fluoro-6-hydroxy-4-methyl-1-benzothiophen-3-yl)acetic acid (267 mg) and MeOH (8.0 mL) was added conc. H2SO4 (0.100 mL). The mixture was stirred at 80° C. for 1 h. The mixture was concentrated. The mixture was neutralized with saturated aqueous NaHCO3 and extracted with EtOAc. The organic layer was washed with brine, dried over MgSO4, filtered and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (255.5 mg).

reactant | (7-fluoro-6-hydroxy-4-methyl-1-benzothiophen-3-yl)acetic acid | 267 mg | FC1=C(C=C(C=2C(=CSC21)CC(=O)O)C)O | C11H9FO3S
reactant | H2SO4 | 0.100 mL | OS(=O)(=O)O | H2O4S
reactant | MeOH | 8.0 mL | CO | CH4O
product | Methyl(7-fluoro-6-hydroxy-4-methyl-1-benzothiophen-3-yl)acetate | 255.5 mg | COC(CC1=CSC2=C1C(=CC(=C2F)O)C)=O | C12H11FO3S
